### PR TITLE
feat: define topology on `Lp` for all `p`

### PR DESCRIPTION
**Pull request by urkud**
This way we can talk about `Dense` etc without asking for `1 ≤ p`.

---

- [x] depends on: #6819

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/LpSeminorm.lean [hunk 1]
```diff
@@ -813,30 +814,18 @@ theorem snorm_add_le {f g : α → E} (hf : AEStronglyMeasurable f μ) (hg : AES
...
+def LpAddConst (p : ℝ≥0∞) : ℝ≥0 :=
+  if p ∈ Set.Ioo (0 : ℝ≥0∞) 1 then (2 : ℝ≥0) ^ (1 / p.toReal - 1) else 1
 #align measure_theory.Lp_add_const MeasureTheory.LpAddConst
 
-theorem LpAddConst_of_one_le {p : ℝ≥0∞} (hp : 1 ≤ p) : LpAddConst p = 1 := by
-  rw [LpAddConst, if_neg]
-  intro h
-  exact lt_irrefl _ (h.2.trans_le hp)
+theorem LpAddConst_of_one_le {p : ℝ≥0∞} (hp : 1 ≤ p) : LpAddConst p = 1 :=
+  if_neg fun h ↦ hp.not_lt h.2
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm.lean:822]: I don't like this golf, because it makes the proof completely unreadable.

File: Mathlib/MeasureTheory/Function/LpSeminorm.lean [hunk 2]
```diff
@@ -813,30 +814,18 @@ theorem snorm_add_le {f g : α → E} (hf : AEStronglyMeasurable f μ) (hg : AES
...
 #align measure_theory.Lp_add_const_of_one_le MeasureTheory.LpAddConst_of_one_le
 
-theorem LpAddConst_zero : LpAddConst 0 = 1 := by
-  rw [LpAddConst, if_neg]
-  intro h
-  exact lt_irrefl _ h.1
+theorem LpAddConst_zero : LpAddConst 0 = 1 := if_neg fun h ↦ h.1.ne rfl
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm.lean:825]: ditto

**Review by sgouezel — COMMENTED** [review]
There are many examples of spaces with a distance satisfying `dist x z \le C (dist x y + dist y z)` (or `C * max (dist x y) (dist y z)`), for which the very same construction would apply. Don't you think it would be worth making a general theory for these?

**Comment by urkud** [comment]
> There are many examples of spaces with a distance satisfying `dist x z \le C (dist x y + dist y z)` (or `C * max (dist x y) (dist y z)`), for which the very same construction would apply. Don't you think it would be worth making a general theory for these?

What are other examples (besides `Lp` and `lp`)? How should I call this typeclass?

**Comment by sgouezel** [comment]
Here is an example in a completely different setting. When you define the distance on the boundary of a hyperbolic group, it depends on a parameter epsilon. This is a genuine distance if epsilon is small enough, but for a general epsilon it is only a quasi-distance in the above sense. This is still enough to define a lot of things (Hausdorff measure and Hausdorff dimension, for instance). 

On the wikipedia page https://en.wikipedia.org/wiki/Metric_space, these are called inframetrics but I don't think I had seen this name before.

**Comment by faenuccio** [comment]
I once intended to develop the theory of F-spaces as explained for instance in Kalton-Peck-Robert's book "An F-space sampler" (London Math Series 89). In particular, all $\ell^p$ and $L^p$ (for $0 < p \leq 1$) are F-spaces. Would it be reasonable to try to join forces? Some very minor advances we made with @hrmacbeth are in (Lean 3! and in) the branch https://github.com/leanprover-community/mathlib/tree/lp_p_le_one

**Comment by urkud** [comment]
> 

What is the definition of an F-space? The [Wikipedia](https://en.wikipedia.org/wiki/F-space) says that it has to be a metric space, then says that $$L^{1/2}[0, 1]$$ is an F-space. Both can't be true.

**Comment by faenuccio** [comment]
> > 
> 
> What is the definition of an F-space? The [Wikipedia](https://en.wikipedia.org/wiki/F-space) says that it has to be a metric space, then says that L1/2[0,1] is an F-space. Both can't be true.

Why do you say so? Beware that in the definition, the metric is not required to be homogeneous, simply translation-invariant and satisfying the triangle inequality. The definition given by wikipedia considers the metric as part of the data, whereas Kalton-Peck-Robert say that  "A metrizable topological vector space (or metric linear space) is called an F-space if it is complete for an invariant metric (and hence for every invariant metric.)" (everything over $\mathbb{C}$ or $\mathbb{R}$). In particular, you can square the $L^{1/2}$-norm to obtain an equivalent topology (uniform structure, in fact), together with subadditivity, see for instance the section "When 0 < p < 1" in the [Wikipedia page on Lp spaces](https://en.wikipedia.org/wiki/Lp_space).
